US08669280B2
2,3-Methylenedioxycinnamoylguanidine
Oxalyl chloride (0.68 mL, 7.8 mmol) was added to a suspension of 2,3-methylenedioxycinnamic acid (500 mg, 2.6 mmol) in dichloromethane (5 nm) containing a drop of dimethylformamide. The mixture was stirred for 25 hours and the resulting solution was evaporated to dryness under reduced pressure. The residue was dissolved in dry tetrahydrofuran (5 mL) and added to a solution of guanidine hydrochloride (1.24 g, 13 mmol) in 2M aqueous sodium hydroxide (8 mL). The reaction was stirred at room temperature for 1 hour and chloroform was then added. The resulting precipitate of crude product (100 mg) was collected by filtration. The filtrate was extracted with chloroform (3×30 mL) and ethyl acetate (20 mL). The combined organic extracts were washed with 2M aqueous sodium hydroxide (20 mL), water (20 mL), dried (Na2SO4) and concentrated under reduced pressure to give a further quantity of crude product (400 mg). The two crops of crude product were combined, suspended in chloroform (10 mL) and stirred vigorously for 20 minutes. The resulting 2,3-methylenedioxycinnamoylguanidine (420 mg) was collected by filtration and dried under vacuum.

reactant | Oxalyl chloride | 7.8 mmol, 0.68 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 2,3-methylenedioxycinnamic acid | 2.6 mmol, 500 mg | C1OC2=C(C=CC(=O)O)C=CC=C2O1 | C10H8O4
reactant | dimethylformamide | CN(C=O)C | C3H7NO
reactant | guanidine hydrochloride | 13 mmol, 1.24 g | Cl.NC(=N)N
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | sodium hydroxide | 2M, 8 mL | [OH-].[Na+]
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 2,3-Methylenedioxycinnamoylguanidine | 400 mg | C1OC2=C(C=CC(=O)NC(=N)N)C=CC=C2O1 | C11H11N3O3
